US08242139B2
N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-N′-[3-(trifluoromethyl)phenyl]urea
To an ambient solution of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (0.350 g, 1.59 mmol) in tetrahydrofuran (4 mL) was added 3-trifluoromethylphenyl isocyanate (1.59 mmol). The solution was stirred at room temperature for 1 hour and was then concentrated under reduced pressure. The solid was washed with diethyl ether (2 mL) and air-dried to give the title compound. MS (ESI) m/z 408 [M+H]+.

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.59 mmol, 0.350 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | 3-trifluoromethylphenyl isocyanate | 1.59 mmol | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]-N′-[3-(trifluoromethyl)phenyl]urea | CC1(OB(OC1(C)C)C=1C=CC(=NC1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)C | C19H21BF3N3O3
